US08283383B2
Acetic anhydride (11.0 g, 108 mmol) was added to THF (15 mL) followed by addition of formic acid (5.09 g, 133 mmol). The mixture was heated to 65° C. for 2.5 hours, then cooled to room temperature. 5-Amino-4′-methyl-biphenyl-3-carboxylic acid methyl ester (5.0 g, 21 mmol) was added, and the reaction mixture was stirred for three hours at 70° C., then cooled to room temperature. The reaction mixture was diluted with water and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure to give 5-formylamino-4′-methyl-biphenyl-3-carboxylic acid methyl ester, which was used directly in the next step without further purification.

reactant | Acetic anhydride | 108 mmol, 11.0 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | THF | 15 mL | C1CCOC1 | C4H8O
reactant | formic acid | 133 mmol, 5.09 g | C(=O)O | CH2O2
reactant | 5-Amino-4′-methyl-biphenyl-3-carboxylic acid methyl ester | 21 mmol, 5.0 g | COC(=O)C=1C=C(C=C(C1)N)C1=CC=C(C=C1)C | C15H15NO2
solvent | water | O | H2O
product | 5-formylamino-4′-methyl-biphenyl-3-carboxylic acid methyl ester | COC(=O)C=1C=C(C=C(C1)NC=O)C1=CC=C(C=C1)C | C16H15NO3
